* C:\Users\German\Documents\placa_prueba_bq24780s\Simulaciones\modulo_descarga\modulo_carga_descarga_ac_imp.asc
* Generated by LTspice 24.1.9 for Windows.
Rs N024 VGND 100m
Q1 N001 N002 in2 0 2N2222
Q2 in2 N001 C1 0 TIP36C
Q3 N020 B in2 0 2N2907
Q4 in2 N020 0 0 TIP35C
VBAT N021 N024 3.7
R4 N005 VGND 10k
R10 in N005 91K
D2 N018 B 1N4148
R3 C1 N002 1k
X§U1 N005 N009 C1 0 N006 LMX24_LM2902
C1 N006 N009 1n
R11 N024 N009 9.1k
D3 B N014 1N4148
X§U3 N013 N015 C1 0 N014 LMX24_LM2902
C2 N014 N015 1n
V6 N012 N024 2.1
R13 N015 N024 30k
R12 in2 N015 30k
R14 N013 N012 7.5k
D1 N002 N018 1N4148
D4 B N006 1N4148
V8 C1 0 24V
Q8 N007 N010 N016 0 2N2222
Q9 N016 N007 C1 0 TIP36C
Q10 N023 N022 N019 0 2N2907
Q11 N019 N023 0 0 TIP35C
D5 N017 N022 1N4148
R15 C1 N010 1K
D7 N010 N017 1N4148
R16 N016 VGND 100m
R17 N022 0 1K
R20 VGND N019 100m
C3 C1 N017 220µ
C4 N017 0 220µ
R2 in2 N021 10m
X§U2 N004 N008 C1 0 in LMX24_LM2902
R1 VGND N008 100k
R5 N004 N003 100k
R6 N004 N011 100k
V1 N003 VGND SINE(0 100m 10k 0 0 0 200)
V2 N011 VGND PULSE(0 -30m 1m 1n 1n 9m 10m 30)
R7 in N008 100k
.model D D
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 5m 0 100
* .ac dec 1000 0.01 100Meg
* .dc Vref 0 0.3 10m
.MODEL tip35c npn (
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91656 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854
+ISC=3.9e-13 NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563125 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.421306 MJE=0.693953
+TF=1e-08 XTF=1.35777 VTF=1.00063 ITF=0.9994
+CJC=5e-10 VJC=0.400277 MJC=0.409924 XCJC=0.803124
+FC=0.720291 CJS=0 VJS=0.75 MJS=0.5
+TR=4.99888e-07 PTF=0 KF=0 AF=1)
.MODEL tip36c pnp(
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91657 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854 ISC=3.9e-13
+NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563123 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.4 MJE=0.735975
+TF=1e-08 XTF=1.35769 VTF=1 ITF=0.99952
+CJC=5e-10 VJC=0.400257 MJC=0.409987 XCJC=0.80312
+FC=0.724857 CJS=0 VJS=0.75 MJS=0.5
+TR=2.03153e-07 PTF=0 KF=0 AF=1)
.inc OPAx188.lib
.model D4V1 D(Ron=0 Roff=1Meg Vfwd=0.7 Vrev=4.1)
.inc lmx24_lm2902.lib
* FUENTE PARTIDA
* MÓDULO CARGA/DESCARGA/ACIR
.backanno
.end
